US09233946B2
2,4-Difluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 2,4-difluorobenzenesulfonyl chloride (11.7 mg, 0.055 mmol) and 5-(3-amino-phenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 56% yield (9.5 mg). MS (ESI+) calcd mass for C13H9F2N5O2S 337.044502, found 337.044202.

reactant | 2,4-difluorobenzenesulfonyl chloride | 0.055 mmol, 11.7 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 5-(3-amino-phenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 2,4-Difluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 56% yield | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C13H9F2N5O2S
